** lab3_hw_ckt2 **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: CSNAP-VLA
* Thu, Jan 22, 2015 21:03:48 
*

*## Multisim Component V1 ##*
vV1 Vac 0 dc 0 ac 1 0
+      distof1 0 0
+      distof2 0 0
+      sin(0 {0.707*1.414213562} 60 0 0 0)

*## Multisim Component C1 ##*
cC1 Vr Vac 1e-006

*## Multisim Component R1 ##*
rR1 Vr 0 100 vresR1  
.model vresR1 r(  )


